US05889026
4-Benzyl-1-[2-(4-benzyloxy-phenoxy)-ethyl]-piperidin-4-ol (1.35 g, 3.2 mmol) was dissolved in a mixture of MeOH (75 ml) and ethyl acetate (75 ml) and hydrogenated in the presence of Pd on C at room temperature and atmospheric pressure. After filtration and evaporation of the solvent, the residue was dissolved in ethanol (2 mnl) and ethyl acetate (10 ml). 1.1 equivalent of ethanolic HCl were added to give 4-benzyl-1-[2-(4-hydroxy-phenoxy)-ethyl]-piperidin-4-ol hydrochloride (0.85 g, 72%) as colorless solid, m.p. 161°-163° C. and MS: m/e=328.3 (M+H+).

reactant | 4-Benzyl-1-[2-(4-benzyloxy-phenoxy)-ethyl]-piperidin-4-ol | 3.2 mmol, 1.35 g | C(C1=CC=CC=C1)C1(CCN(CC1)CCOC1=CC=C(C=C1)OCC1=CC=CC=C1)O | C27H31NO3
reactant | HCl | 1.1 equivalent | Cl | ClH
solvent | MeOH | 75 ml | CO | CH4O
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
solvent | Pd | [Pd] | Pd
product | 4-benzyl-1-[2-(4-hydroxy-phenoxy)-ethyl]-piperidin-4-ol hydrochloride | 0.85 g, 72% | Cl.C(C1=CC=CC=C1)C1(CCN(CC1)CCOC1=CC=C(C=C1)O)O | InChI=1S/C20H25NO3.ClH/c22-18-6-8-19(9-7-18)24-15-14-21-12-10-20(23,11-13-21)16-17-4-2-1-3-5-17;/h1-9,22-23H,10-16H2;1H
